US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-fluoropyrimidine with 3,5-dichloro-4-hydroxyaniline gave N2,N4-bis-(3,5-dichloro-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 21.26 min.; purity: 88%; MS (m/e): 450 (M+); 1H NMR (DMSO-d6): δ 9.96 (1H, s), 9.59 (1H, s), 9.47 (1H, s), 9.37 (1H, s), 8.22 (1H, d, J=3.6 Hz), 7.79 (2H, s), 7.74 (2H, s).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,5-dichloro-4-hydroxyaniline | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
product | N2,N4-bis-(3,5-dichloro-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=C(C1O)Cl)NC1=NC=C(C(=N1)NC1=CC(=C(C(=C1)Cl)O)Cl)F | C16H9Cl4FN4O2
